US04419352
(a) 6-Acetyl-4-ethylamino-7-hydroxy-8-propylquinoline-2-carboxylic acid
Methyl 6-acetyl-4-chloro-7-hydroxy-8-propylquinoline-2-carboxylate (8.9 g; 27.7258 mmole) and ethylamine in ethanol (33% w/w; 24 ml) was heated at 100° C. under pressure (autoclaved) for 28 hours. The mixture was cooled, treated with water and concentrated, followed by extraction with chloroform. The organic extract was washed with water, dried and evaporated to give a red solid (8.1 g; 81%).

reactant | Methyl 6-acetyl-4-chloro-7-hydroxy-8-propylquinoline-2-carboxylate | 27.7258 mmole, 8.9 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)Cl | C16H16ClNO4
reactant | ethylamine | C(C)N | C2H7N
reactant | water | O | H2O
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | 6-Acetyl-4-ethylamino-7-hydroxy-8-propylquinoline-2-carboxylic acid | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)O)NCC | C17H20N2O4
